US06063815
2-Acetoxy-4-(hydroxymethyl) benzoic acid methyl ester
A solution containing 2-acetoxy-4-(bromomethyl) benzoic acid methyl ester (1.34g, 4.67 mmol, RN 13339-10-1) and sodium formate (0.795 g, 11.7 mmol) In EtOH:DMSO:H2O (2:2:1, 93 mL) was heated at 100° C. for 16 h. The reaction was cooled to ambient temperature, diluted with 10% CH2Cl2 /EtOAc (100 mL), washed with brine (3×), dried (Na2SO4) and concentrated. The crude product was purified on Biotage KP-Sil eluting with 20% acetone/hexane to give 0.518 g (49%) of the title compound as a clear oil. 1H NMR (DMSO-d6) δ 2.28 (s, 3H), 3.80 (s, 3H), 4.57 (d, 2H), 5.45 (br, t, 1H), 7.16 (s, 1H), 7.33 (d, 1H), 7.91 (d, 1H).

reactant | 2-acetoxy-4-(bromomethyl) benzoic acid methyl ester | 4.67 mmol, 1.34g | COC(C1=C(C=C(C=C1)CBr)OC(C)=O)=O | C11H11BrO4
reactant | sodium formate | 11.7 mmol, 0.795 g | C(=O)[O-].[Na+]
solvent | EtOH DMSO H2O | 93 mL | CCO.CS(=O)C.O
solvent | CH2Cl2 EtOAc | 100 mL | C(Cl)Cl.CCOC(=O)C
product | 2-Acetoxy-4-(hydroxymethyl) benzoic acid methyl ester | 0.518 g, 49% | COC(C1=C(C=C(C=C1)CO)OC(C)=O)=O | C11H12O5
